US04490392
A mixture of 1.0 g of α-[(α-methyl-2,3,4-trimethoxyphenethylamino)methyl]-2-benzyloxybenzylalcohol hydrochloride [the diastereoisomer of M.p. 135°-136° C.], 400 mg of 10% palladium-carbon, 45 ml of ethanol and 5 ml of water is treated in the same manner as described in paragraph (6-a). The crude product thus obtained is recrystallized from a mixture of isopropylalcohol and isopropyl ether (1:2). 590 mg of α-[(α-methyl-2,3,4-trimethoxyphenethylamino)methyl]-2-hydroxybenzylalcohol hydrochloride [the diastereoisomer of M.p. 145°-146° C.] are thereby obtained as colorless prisms.

reactant | α-[(α-methyl-2,3,4-trimethoxyphenethylamino)methyl]-2-benzyloxybenzylalcohol hydrochloride | 1.0 g | Cl.CC(CC1=C(C(=C(C=C1)OC)OC)OC)NCC(C1=C(C=CC=C1)OCC1=CC=CC=C1)O
reactant | ethanol | 45 ml | C(C)O | C2H6O
catalyst | palladium-carbon | 400 mg | [C].[Pd]
solvent | water | 5 ml | O | H2O
product | α-[(α-methyl-2,3,4-trimethoxyphenethylamino)methyl]-2-hydroxybenzylalcohol hydrochloride | 590 mg | Cl.CC(CC1=C(C(=C(C=C1)OC)OC)OC)NCC(C1=C(C=CC=C1)O)O | InChI=1S/C20H27NO5.ClH/c1-13(21-12-17(23)15-7-5-6-8-16(15)22)11-14-9-10-18(24-2)20(26-4)19(14)25-3;/h5-10,13,17,21-23H,11-12H2,1-4H3;1H
